US07888364B2
Procedure F was performed using 50 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 70 μL of isobutylamine in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(isobutylamino)-2-methylnicotinamide. MS (Q1) 395.4 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 50 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | isobutylamine | 70 μL | C(C(C)C)N | C4H11N
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(isobutylamino)-2-methylnicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)NCC(C)C)C)=O)C1=NC=CC=C1 | C22H23ClN4O
